US07576135B2
3-(4-chlorophenyl)-2-fluoro-3-hydroxypropionic acid ethyl ester
Zinc powder (1.96 g) was added to 4-chlorobenzaldehyde (141 mg) dissolved in benzene (20 mL), and a catalytic amount of iodine was added to the mixture while refluxing by heating. Ethyl bromofluoroacetate (185 mg) in benzene (2.5 mL) was added dropwise thereto, followed by stirring for 2.5 hours. The reaction mixture was cooled by ice, 1N hydrochloric acid (12.5 mL) was added thereto, and the resultant mixture was stirred at room temperature for 1.5 hours. Water and ethyl acetate were added thereto for partiton. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, and dried over sodium sulfate anhydrate. The solvent was distilled away under reduced pressure. The residue was purified by preparative thin layer chromatography (hexane:ethyl acetate=3:1), to thereby give the title compound (diastereomer mixture) (117 mg) as a colorless oil.

reactant | 4-chlorobenzaldehyde | 141 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | iodine | II | I2
reactant | Ethyl bromofluoroacetate | 185 mg | BrC(C(=O)OCC)F | C4H6BrFO2
reactant | hydrochloric acid | 1N, 12.5 mL | Cl | ClH
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 2.5 mL | C1=CC=CC=C1 | C6H6
catalyst | Zinc | 1.96 g | [Zn] | Zn
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-(4-chlorophenyl)-2-fluoro-3-hydroxypropionic acid ethyl ester | 117 mg | C(C)OC(C(C(O)C1=CC=C(C=C1)Cl)F)=O | C11H12ClFO3
